US03983164
A mixture of 4-hydroxymethylphenoxy phenyl methane (1.07g.; 0.005 mole) and active manganese dioxide (0.44g.; 0.005 mole) in dry acetone (20ml) was stirred under dry nitrogen for 18 hrs. at room temperature. The inorganic salts were then filtered off to yield 4-formylphenoxy phenyl methane identified by TLC.

reactant | 4-hydroxymethylphenoxy phenyl methane | 0.005 mole, 1.07g | OCC1=CC=C(OCC2=CC=CC=C2)C=C1 | C14H14O2
solvent | acetone | 20ml | CC(=O)C | C3H6O
catalyst | manganese dioxide | 0.005 mole, 0.44g | [O-2].[O-2].[Mn+4]
product | 4-formylphenoxy phenyl methane | C(=O)C1=CC=C(OCC2=CC=CC=C2)C=C1 | C14H12O2
